US05134168
CIS and TRANS-1,2,3,4-tetrahydro-1-(2-methoxyphenoxy)-N,N-dimethyl-2-naphthalenemethanamine
A mixture of 8.21 g (0.04 M) of TRANS-1,2,3,4-tetrahydro-2-(N,N-dimethylaminomethyl)naphthalen-1-ol, 11.54 triphenyl phosphine, 5.46 g (0.044 M) of triphenyl phosphine, 5.46 g (0.044 M) of 2-methoxyphenol and 100 ml of benzene was stirred and a solution of 7.83 g (0.004 M) of 95% diethyl azodicarbox-ylate in 25 ml of benzene was added dropwise over 45 minutes. After 2 hours, the mixture was filtered and extracted with cold 3% hydrochloric acid. The acid extracts were made basic with dilute sodium hydroxide and the oil which separated was extracted into ether. The solvent was removed and the residual oil chromatographed on silica gel.

reactant | TRANS-1,2,3,4-tetrahydro-2-(N,N-dimethylaminomethyl)naphthalen-1-ol | 0.04 M, 8.21 g | CN(C)C[C@H]1[C@@H](C2=CC=CC=C2CC1)O | C13H19NO
reactant | triphenyl phosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triphenyl phosphine | 0.044 M, 5.46 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-methoxyphenol | 0.044 M, 5.46 g | COC1=C(C=CC=C1)O | C7H8O2
reactant | diethyl azodicarbox-ylate | 0.004 M, 7.83 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | benzene | 25 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | TRANS-1,2,3,4-tetrahydro-1-(2-methoxyphenoxy)-N,N-dimethyl-2-naphthalenemethanamine | COC1=C(O[C@H]2[C@@H](CCC3=CC=CC=C23)CN(C)C)C=CC=C1 | C20H25NO2
